US06579892B1
3-(3-Aminopropylmercapto)-4-methyl-5-phenyl-1,2,4(4H)-triazole 3-Mercapto-4-methyl-5-phenyl-1,2,4(4H)-triazole (11.8 g, 50 mmol) was heated, together with 13.8 g (50 mmol) of N-(3-bromopropyl)phthalimide and 1.2 g (50 mmol) of lithium hydroxide, at 100° C. for 3.5 hours, in 150 ml of DMF. After the mixture had cooled down, 1 l of water was added and this new mixture was extracted several times with methylene chloride; the organic phase was then dried and evaporated. 14.5 g (75% of theory) of 3-[4-methyl-5-phenyl-3-phthalimidopropylmercapto]-1,2,4(4H)-triazole were obtained. 14.5 g (38 mmol) of the above-described compound were reacted with 2.3 ml (46 mmol) of hydrazine hydrate in ethanol, and 9.7 g (39 mmol) of 3-(3-aminopropylmercapto-4-methyl-5-phenyl-1,2,4(4H)-triazole were isolated.

reactant | 3-(3-Aminopropylmercapto)-4-methyl-5-phenyl-1,2,4(4H)-triazole 3-Mercapto-4-methyl-5-phenyl-1,2,4(4H)-triazole | 50 mmol, 11.8 g | SC1=NN=C(N1C)C1=CC=CC=C1.NCCCSC1=NN=C(N1C)C1=CC=CC=C1
reactant | N-(3-bromopropyl)phthalimide | 50 mmol, 13.8 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | lithium hydroxide | 50 mmol, 1.2 g | [OH-].[Li+]
reactant | water | 1 l | O | H2O
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 3-[4-methyl-5-phenyl-3-phthalimidopropylmercapto]-1,2,4(4H)-triazole | 14.5 g, 75% | CC=1C=C2C(C(=O)N(C2=O)CCCSC2=NN=CN2)=CC1C1=CC=CC=C1 | C20H18N4O2S
